US07696223B2
b) {[7-Hydroxy-4-(4-morpholin-4-yl-phenyl)-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 7-Hydroxy-4-(4-morpholin-4-yl-phenyl)-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester (56 mg, 0.12 mmole) and glycine (182 mg, 2.43 mmole) in 0.5 M sodium methoxide/methanol (4.4 ml) was refluxed for 5 days before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (120 ml) and extracted with dichloromethane. The remaining aqueous layer was acidified to pH=3 with 1N HCl (5 ml). The resulting suspension was extracted with ethyl acetate, washed with brine and dried in vacuo to give the title compound as a yellow solid (44 mg). 1H NMR (DMSO-d6, 200 MHz): δ=13.1 (br s, 1H), 9.37 (t, 1H), 8.15 (m, 2H), 8.04 (m, 2H), 7.62 (m, 3H), 7.10 (m, 2H), 4.06 (d, 2H, J=5.8 Hz), 3.77 (m, 4H); MS: (+) m/z 491.22 (M+1).

reactant | 7-Hydroxy-4-(4-morpholin-4-yl-phenyl)-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 0.12 mmole, 56 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C1=CC=C(C=C1)N1CCOCC1)SC(=N2)C2=CC=CC=C2)O | C25H23N3O4S
reactant | glycine | 2.43 mmole, 182 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 4.4 ml | C[O-].[Na+].CO
product | {[7-Hydroxy-4-(4-morpholin-4-yl-phenyl)-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl]-amino}-acetic acid | 44 mg | OC=1C2=C(C(=NC1C(=O)NCC(=O)O)C1=CC=C(C=C1)N1CCOCC1)SC(=N2)C2=CC=CC=C2 | C25H22N4O5S
